US06544985B2
3-(5-Hydroxymethyl-thiazol-4-yl)-benzoic acid methyl ester (1.25 g), dihydropyrane (0.84 mL) and p-toluenesulfonic acid hydrate (0.10 g) in AcOEt (12 mL) was stirred at 20° C. for 3 h. The solution was diluted AcOEt, washed with 5% NaHCO3 solution and with brine, dried and evaporated. The residual oil was purified by chromatography on silica gel using AcOEt/hexane (1:3) as eluent to give 3-[5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester (1.60 g) as a pale-yellow oil.

reactant | 3-(5-Hydroxymethyl-thiazol-4-yl)-benzoic acid methyl ester | 1.25 g | COC(C1=CC(=CC=C1)C=1N=CSC1CO)=O | C12H11NO3S
reactant | dihydropyrane | 0.84 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | 0.10 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | AcOEt | 12 mL | CCOC(=O)C | C4H8O2
product | 3-[5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester | 1.60 g | COC(C1=CC(=CC=C1)C=1N=CSC1COC1OCCCC1)=O | C17H19NO4S
